US08865698B2
Step C: Preparation of (S)—N-(5-((R)-2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxypyrrolidine-1-carboxamide:
To a DCM (1 mL) solution of (R)-5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (25 mg, 0.068 mmol) was added CDI (22 mg, 0.14 mmol) at ambient temperature in one portion. After stirring for two hours, (S)-pyrrolidin-3-ol (18 mg, 0.21 mmol) was added in one portion. The reaction was stirred overnight before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 0 to 60% acetonitrile/water to yield the final product as a yellowish solid (28 mg, 86% yield). MS (apci) m/z=479.2 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.068 mmol, 25 mg | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N)C(F)(F)F | C17H15F4N5
reactant | CDI | 0.14 mmol, 22 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (S)-pyrrolidin-3-ol | 0.21 mmol, 18 mg | N1C[C@H](CC1)O | C4H9NO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(5-((R)-2-(5-fluoro-2-(trifluoromethyl)phenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxypyrrolidine-1-carboxamide | 28 mg, 86% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2C[C@H](CC2)O)C(F)(F)F | C22H22F4N6O2
